US07687502B2
[6-(4H-[1,2,4]triazol-3-ylsulfanyl)-pyrido[3,2-d]-pyrimidin-4-yl]-3-methyl-[1,2,4]thiadiazol-5-yl-amine
3-Mercapto-4H-[1,2,4]triazole (54 mg; 0.54 mmol) and 100 mg (0.36 mmol) of (6-chloro-pyrido[3,2-d]pyrimidin-4-yl)-3-methyl-[1,2,4]thiadiazol-5-yl-amine were added to a solution of 80 mg (0.72 mmol) of tert-butoxy potassium in 3 ml of N,N-dimethylacetamide and the mixture was stirred at 130° C. for 16 hours. Water was added to the reaction solution and the mixture was extracted with chloroform. The organic layer was dried and concentrated and the resulting residue was purified by a reversed phase preparative HPLC (0.1% TFA-containing water:acetonitrile=90:10→10:90) to give 3 mg (yield: 2%) of the title compound as a yellow solid.

reactant | 3-Mercapto-4H-[1,2,4]triazole | 0.54 mmol, 54 mg | SC1=NN=CN1 | C2H3N3S
reactant | (6-chloro-pyrido[3,2-d]pyrimidin-4-yl)-3-methyl-[1,2,4]thiadiazol-5-yl-amine | 0.36 mmol, 100 mg | ClC=1C=CC=2N=CN=C(C2N1)NC1=NC(=NS1)C | C10H7ClN6S
reactant | tert-butoxy potassium | 0.72 mmol, 80 mg | C(C)(C)(C)O[K]
reactant | Water | O | H2O
solvent | N,N-dimethylacetamide | 3 ml | CN(C(C)=O)C | C4H9NO
product | [6-(4H-[1,2,4]triazol-3-ylsulfanyl)-pyrido[3,2-d]-pyrimidin-4-yl]-3-methyl-[1,2,4]thiadiazol-5-yl-amine | 3 mg, yield: 2% | N=1N=C(NC1)SC=1C=CC=2N=CN=C(C2N1)NC1=NC(=NS1)C | C12H9N9S2
